US07015220B2
4-Fluoro-3-{[4-(1-methyl-piperidin-3-ylmethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(1-methyl-piperidin-3-ylmethoxy)-phenylamine (590 mg, 1.2 equiv.) and 4-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one (400 mg, 2.23 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (576 mg, 68%).

reactant | 4-(1-methyl-piperidin-3-ylmethoxy)-phenylamine | 590 mg, 1.2 equiv. | CN1CC(CCC1)COC1=CC=C(C=C1)N | C13H20N2O
reactant | 4-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one | 2.23 mmol, 400 mg, 1 equiv. | FC1=C2C(C(NC2=CC=C1)=O)=CO | C9H6FNO2
product | 4-Fluoro-3-{[4-(1-methyl-piperidin-3-ylmethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 576 mg, 68% | FC1=C2C(C(NC2=CC=C1)=O)=CNC1=CC=C(C=C1)OCC1CN(CCC1)C | C22H24FN3O2
